US06552017B1
p-Fluorothiophenol (5 g, 40 mmol) and β-propiolactone (2.8 g, 40 mmol) were dissolved in THF (36 mL of freshly distilled) and then placed in an ice bath. 95% sodium hydride (1 g, 42.9 mmol) was added in small portions over 1 hour. The reaction was allowed to stir at 0° C. for 2 hours, then placed in the freezer overnight. The reaction was quenched with ice chips and then acidified with concentrated hydrogen chloride until a pH of 2. The product was extracted with ethyl acetate (1×200 mL) and dichloromethane (2×200 mL), dried (sodium sulfate) and concentrated to give 3-[(4-fluorophenyl)sulfanyl]propanoic acid (7.08 g, 89%). 1H NMR (CDCl3, 300 MHz): δ 7.42-7.35 (m, 2H), 7.02 (t, 2H, J=8.6 Hz), 4.35 (t, 1H, J=6.2 Hz), 3.10 (t, 2H, J=7.3 MHz), 2.63 (t, 2H, J=7.3 Hz) ppm.

reactant | p-Fluorothiophenol | 40 mmol, 5 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | β-propiolactone | 40 mmol, 2.8 g | C1(CCO1)=O | C3H4O2
reactant | sodium hydride | 42.9 mmol, 1 g | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4-fluorophenyl)sulfanyl]propanoic acid | 7.08 g, 89% | FC1=CC=C(C=C1)SCCC(=O)O | C9H9FO2S
